US09193726B2
Step 2: Synthesis of (E)-1-[4-chloro-3-(trifluoromethyl)phenyl]-N-hydroxymethanimine (C19)
To a solution of 4-chloro-3-(trifluoromethyl)benzaldehyde (93.9 mg, 0.45 mmol) in tetrahydrofuran (0.9 mL) and ethanol (0.9 mL) was added hydroxylamine (50% in water, 0.20 mL) and the reaction was maintained at room temperature for 36 hours. Methanol (3.0 mL) was added, the solvent was removed in vacuo, and the residue was triturated with toluene (2×1 mL) to afford the title compound as a solid. Yield: 101 mg, 0.45 mmol, 100%.

reactant | 4-chloro-3-(trifluoromethyl)benzaldehyde | 0.45 mmol, 93.9 mg | ClC1=C(C=C(C=O)C=C1)C(F)(F)F | C8H4ClF3O
reactant | hydroxylamine | 0.20 mL | NO | H3NO
reactant | Methanol | 3.0 mL | CO | CH4O
solvent | tetrahydrofuran | 0.9 mL | O1CCCC1 | C4H8O
solvent | ethanol | 0.9 mL | C(C)O | C2H6O
product | (E)-1-[4-chloro-3-(trifluoromethyl)phenyl]-N-hydroxymethanimine | ClC1=C(C=C(C=C1)\C=N\O)C(F)(F)F | C8H5ClF3NO
